US07259183B2
To a solution of 2,4,6-trichlorophenol (1.90 g, 9.64 mmol) in methylene chloride (70 ml) at −40° C. was added diethyl zinc (9.64 ml, 1M solution in hexane, 9.64 mmol). The mixture was stirred at −40° C. for 20 min and then CH2I2 (778 μl, 9.64 mmol) was added. After stirring for an additional 20 min, 1-bromo-4-(1-methoxyvinyl)-benzene (1.37 g, 6.43 mmol) was added. The reaction mixture was slowly warmed to rt and stirring was continued for 16 h. Pentane was added and the mixture was washed with 1M HCl, sat. NaHCO3, sat. Na2SO3 and brine. The organic layer was dried (MgSO4), filtered, concentrated in vacuo to give a crude residue which was purified by flash column chromatography (2% ethylacetate in cyclohexane-10% ethylacetate in cyclohexane) to give 1-bromo-4-(1-methoxycyclopropyl)-benzene (880 mg, 60%) as a yellow oil. 1H NMR (CDCl3, 300 MHz): δ 7.46 (d, J=8.5 Hz, 2H), 7.18 (d, J=8.5 Hz, 2H), 3.21 (s, 3H), 1.21-1.17 (m, 2H), 0.95-0.91 (m, 2H).

reactant | 2,4,6-trichlorophenol | 9.64 mmol, 1.90 g | ClC1=C(C(=CC(=C1)Cl)Cl)O | C6H3Cl3O
reactant | diethyl zinc | 9.64 mmol, 1M, 9.64 ml | C(C)[Zn]CC
reactant | CH2I2 | 9.64 mmol, 778 μl | C(I)I | CH2I2
reactant | 1-bromo-4-(1-methoxyvinyl)-benzene | 6.43 mmol, 1.37 g | BrC1=CC=C(C=C1)C(=C)OC | C9H9BrO
solvent | methylene chloride | 70 ml | C(Cl)Cl | CH2Cl2
solvent | Pentane | CCCCC | C5H12
product | 1-bromo-4-(1-methoxycyclopropyl)-benzene | 880 mg, 60% | BrC1=CC=C(C=C1)C1(CC1)OC | C10H11BrO
